US07056917B2
(D) N8-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2,4-dioxo-3,4-dihydro-2H-pyrido[1,2-a]-pyrimidine-8-carboxamide
N4-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2-aminoisonicotinamide (200 mg, 0.724 mmol) was added with xylene (20 ml) and trichlorophenyl malonate (370 mg, 0.796 mmol) and refluxed by heating at 130° C. The reaction solution was stirred for 1 hour, then returned to room temperature and concentrated under reduced pressure. The resulting orange crystals was taken by filtration, washed with chloroform, dried under reduced pressure to obtain 209 mg (84%) of the title compound as orange crystals without purification.

reactant | N4-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2-aminoisonicotinamide | 0.724 mmol, 200 mg | C(C)(C)(C)C=1N=C(SC1)NC(C1=CC(=NC=C1)N)=O | C13H16N4OS
reactant | trichlorophenyl malonate | 0.796 mmol, 370 mg | C(CC(=O)[O-])(=O)OC1=C(C(=C(C=C1)Cl)Cl)Cl
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N8-[4-(tert-Butyl)-1,3-thiazol-2-yl]-2,4-dioxo-3,4-dihydro-2H-pyrido[1,2-a]-pyrimidine-8-carboxamide | 209 mg, 84% | C(C)(C)(C)C=1N=C(SC1)NC(=O)C1=CC=2N(C(CC(N2)=O)=O)C=C1 | C16H16N4O3S
